US07087761B2
4-Methoxy-N7-(2-methoxy-ethyl)-N7-methyl-benzothiazole-2,7-diamine
From {2-methoxy-5-[(2-methoxy-ethyl)-methyl-amino]-phenyl}-thiourea with HBr—AcOH (2 equiv.) and DMSO (1.1 equiv.) in AcOH. ES-MS m/e (%): 268 (M+H+, 100).

reactant | {2-methoxy-5-[(2-methoxy-ethyl)-methyl-amino]-phenyl}-thiourea | COC1=C(C=C(C=C1)N(C)CCOC)NC(=S)N | C12H19N3O2S
reactant | HBr AcOH | 2 equiv. | Br.CC(=O)O
reactant | DMSO | 1.1 equiv. | CS(=O)C | C2H6OS
solvent | AcOH | CC(=O)O | C2H4O2
product | 4-Methoxy-N7-(2-methoxy-ethyl)-N7-methyl-benzothiazole-2,7-diamine | COC1=CC=C(C2=C1N=C(S2)N)N(C)CCOC | C12H17N3O2S
